US05639778
7-Di-n-propylamino-6,7,8,9-tetrahydro-3H-benzo[e]indole-1-carbonitrile (10b, Chart 2) (R1R2 n-propyl; R3 hydrogen; R4CH2 ; XY (b); R5H; R6CN)
To an ice-cold solution of di-n-propyl-(6,7,8,9-tetrahydro-3H-benzo[e]indol-7yl)amine, 9a (Chart 2) (180 mg, 0.67 mmol) in acetonitrile (5 mL) was added dropwise with a solution of chlorosufonyl isocyanate (60 mL, 0.68 mmol) in acetonitrile (1 mL) over 10 minutes. After stirring for 1 hour, dimethyl formamide (100 mL) was added and the reaction was stirred for an additional 2 hours. Water was added and extraction (dichloromethane) followed by evaporation of the combined organic extracts afforded 170 mg (86%) of the crude product. Purification on a silica column (hexane/ethyl acetate/methanol) afforded 45 mg (23%) of the pure material.

reactant | di-n-propyl-(6,7,8,9-tetrahydro-3H-benzo[e]indol-7yl)amine | C(CC)N(C1CC2=C(C=3C=CNC3C=C2)CC1)CCC | C18H26N2
reactant | chlorosufonyl isocyanate | 0.68 mmol, 60 mL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | dimethyl formamide | 100 mL | CN(C=O)C | C3H7NO
reactant | Water | O | H2O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 7-Di-n-propylamino-6,7,8,9-tetrahydro-3H-benzo[e]indole-1-carbonitrile | 45 mg, 23% | C(CC)N(C1CC2=C(C=3C(=CNC3C=C2)C#N)CC1)CCC | C19H25N3
